US09227978B2
4-Chloro-5-isopropyl-2-methoxybenzenamine
A mixture of 4-chloro-2-methoxy-5-(prop-1-en-2-yl)benzenamine (160 mg, 0.81 mmol), Raney-Ni (20 mg) in MeOH (5 mL) was stirred at RT under H2 (1 atm) atmosphere for 8 h. The mixture was filtered and the filtrate was concentrated in vacuo to afford the desired product (150 mg, 93% yield).

reactant | 4-chloro-2-methoxy-5-(prop-1-en-2-yl)benzenamine | 0.81 mmol, 160 mg | ClC1=CC(=C(C=C1C(=C)C)N)OC | C10H12ClNO
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Ni | 20 mg | [Ni] | Ni
product | 4-Chloro-5-isopropyl-2-methoxybenzenamine | 150 mg, 93% yield | ClC1=CC(=C(C=C1C(C)C)N)OC | C10H14ClNO
